US08648066B2
4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-7-pyrido[2,3-b]pyrazin-7-yl-2,3,4,5-tetrahydro-1,4-benzoxazepine.
Prepared according to the method of example 5 by using 7-bromopyrido[2,3-b]pyrazine and [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, DMSO-d6): 9.56 (s, 1H), 9.13 (s, 1H), 9.10 (s, 1H), 8.78 (s, 1H), 8.39 (s, 1H), 8.05 (s, 1H), 7.88 (d, 1H), 7.14 (d, 1H), 4.71 (s, 2H), 4.41 (m, 2H), 3.85 (m, 2H), 2.71 (t, 2H), 2.49 (s, 2H), 1.62 (t, 2H), 0.84 (s, 6H); MS (EI) for C26H26N6O: 439 (MH+).

reactant | 7-bromopyrido[2,3-b]pyrazine | BrC1=CC=2C(=NC=CN2)N=C1 | C7H4BrN3
reactant | [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)C | C19H24BN3O3
product | 4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-7-pyrido[2,3-b]pyrazin-7-yl-2,3,4,5-tetrahydro-1,4-benzoxazepine | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C2=CC=1C(=NC=CN1)N=C2)C | C26H26N6O
